US06541473B2
trans-4-(2,4-Dihydroxyphenyl)cyclohexyl Ethyl Carbonate
Triethylamine (0.5 ml), ethylchloroformate (0.5 ml) and dimethylaminopyridine (cat.) were added to a stirred solution of trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanol (250 mg) in anhydrous dichloromethane (5 ml). After 72 hr at room temperature, the reaction mixture was partitioned between ethyl acetate (50 ml) and water (50 ml). The aqueous layer was extracted with ethyl acetate (2×50 ml). The combined organic extracts were washed with brine (50 ml), dried over magnesium sulfate and evaporated in vacuo. The residue was dissolved in methanol (5 ml) and was stirred with fluoride resin (500 mg) for 16 h at room temperature. The resin was filtered through a pad of celite, which was washed well with methanol. The combined filtrates were concentrated in vacuo. The residue was purified using flash column chromatography (SiO2, ethyl acetate/petrol, 1:2 v/v), and then preparative HPLC to give the title compound (4 mg, 3%) as a cream solid. δH (CD3OD) 1.20-1.30 (3H, m), 1.40-1.60 (4H, m), 1.80-1.95 (2H, m), 2.00-2.20 (2H, m), 2.70-2.84 (1H, m), 4.06-4.20 (2H, m), 4.50-4.60 (1H, m), 6.20-6.30 (2H, m), 6.86 (1H, d); m/z(ES−) 279 (M−H−).

reactant | Triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 0.5 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanol | 250 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)O | C24H44O3Si2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | trans-4-(2,4-Dihydroxyphenyl)cyclohexyl Ethyl Carbonate | 4 mg, 3% | C(O[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)O)O)(OCC)=O | C15H20O5
